US07923450B2
d) [4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A solution of [4-(2,4-dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-thiourea (88 mg, 0.30 mmol) and 2-bromo-6-phenyl-cyclohexanone (80 mg, 0.32 mmol) in ethanol (3 ml) was heated to reflux over night. The precipitated solid was filtered off after cooling to room temperature and dried to yield the title compound (100 mg, 100%) as a yellow solid. MS ISP (m/e): 448.2 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.27 (br s, 1H, NH), 7.59 (s, 1H), 7.28 (t, 2H), 7.12-7.19 (m, 4H), 6.85 (d, 1H), 4.00 (m, 1H), 3.37 (s, 3H), 2.74 (m, 2H), 2.66 (s, 3H), 2.20 (s, 2H), 2.13 (m, 1H), 1.70-1.93 (m, 3H).

reactant | [4-(2,4-dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-thiourea | 0.30 mmol, 88 mg | CC=1SC(=C(N1)C)C1=C(C=C(C=C1)NC(=S)N)OC | C13H15N3OS2
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.32 mmol, 80 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | [4-(2,4-Dimethyl-thiazol-5-yl)-3-methoxy-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 100 mg, 100% | CC=1SC(=C(N1)C)C1=C(C=C(C=C1)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2)OC | C25H25N3OS2
